### PR TITLE
[Merged by Bors] - feat(Matroid): cardinality criteria for indep/spanning sets to be bases

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Rank/Cardinal.lean [hunk 1]
```diff
@@ -342,4 +356,34 @@ instance invariantCardinalRank_comap (M : Matroid β) [InvariantCardinalRank M]
...
 end Instances
 
+theorem finiteRk_iff_cRank_lt_aleph0 : M.FiniteRk ↔ M.cRank < ℵ₀ := by
+  refine ⟨fun h ↦ ?_, fun h ↦ ⟨?_⟩⟩
+  · have ⟨B, hB, fin⟩ := h
+    exact hB.cardinalMk_eq_cRank ▸ lt_aleph0_iff_finite.mpr fin
+  have ⟨B, hB⟩ := M.exists_base
+  simp_rw [← finite_coe_iff, ← lt_aleph0_iff_finite]
+  exact ⟨B, hB, (le_ciSup_of_le (bddAbove_range _) ⟨B, hB⟩ le_rfl).trans_lt h⟩
+
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/Rank/Cardinal.lean:366]:
```suggestion
  exact ⟨B, hB, hB.cardinalMk_le_cRank.trans_lt h⟩ 
```

File: Mathlib/Data/Matroid/Rank/Cardinal.lean [hunk 2]
```diff
@@ -342,4 +356,34 @@ instance invariantCardinalRank_comap (M : Matroid β) [InvariantCardinalRank M]
...
+    (le : M.cRank ≤ #I) (fin : I.Finite) : M.Base I :=
+  have := finiteRk_iff_cRank_lt_aleph0.mpr (le.trans_lt <| lt_aleph0_iff_finite.mpr fin)
+  ind.base_of_cRank_le le
+
+theorem Spanning.base_of_le_cRank_of_finite (h : M.Spanning X)
+    (le : #X ≤ M.cRank) (fin : X.Finite) : M.Base X :=
+  have ⟨B, hB, hBX⟩ := h.exists_base_subset
+  have : M.FiniteRk := ⟨B, hB, lt_aleph0_iff_finite.mp <|
+    (mk_le_mk_of_subset hBX).trans_lt <| lt_aleph0_iff_finite.mpr fin⟩
+  h.base_of_le_cRank le
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/Rank/Cardinal.lean:387]:
```suggestion
  have := hB.finiteRk_of_finite (fin.subset hBX) 
```

File: Mathlib/Data/Matroid/Rank/Cardinal.lean [hunk 3]
```diff
@@ -342,4 +356,34 @@ instance invariantCardinalRank_comap (M : Matroid β) [InvariantCardinalRank M]
 
 end Instances
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/Rank/Cardinal.lean:358]: Maybe these new lemmas are more naturally placed *before* the `InvariantCardinalRank` definition?

File: Mathlib/Data/Matroid/Rank/Cardinal.lean [hunk 4]
```diff
@@ -342,4 +356,34 @@ instance invariantCardinalRank_comap (M : Matroid β) [InvariantCardinalRank M]
...
+
+theorem Indep.base_of_cRank_le_of_finite (ind : M.Indep I)
+    (le : M.cRank ≤ #I) (fin : I.Finite) : M.Base I :=
+  have := finiteRk_iff_cRank_lt_aleph0.mpr (le.trans_lt <| lt_aleph0_iff_finite.mpr fin)
+  ind.base_of_cRank_le le
+
+theorem Spanning.base_of_le_cRank_of_finite (h : M.Spanning X)
+    (le : #X ≤ M.cRank) (fin : X.Finite) : M.Base X :=
+  have ⟨B, hB, hBX⟩ := h.exists_base_subset
+  have : M.FiniteRk := ⟨B, hB, lt_aleph0_iff_finite.mp <|
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/Rank/Cardinal.lean:385]:
```suggestion
  have := hB.finiteRk_of_finite (fin.subset hBX) 
```

File: Mathlib/Data/Matroid/Rank/Cardinal.lean [hunk 5]
```diff
@@ -342,4 +356,34 @@ instance invariantCardinalRank_comap (M : Matroid β) [InvariantCardinalRank M]
 
 end Instances
 
+theorem finiteRk_iff_cRank_lt_aleph0 : M.FiniteRk ↔ M.cRank < ℵ₀ := by
+  refine ⟨fun h ↦ ?_, fun h ↦ ⟨?_⟩⟩
+  · have ⟨B, hB, fin⟩ := h
+    exact hB.cardinalMk_eq_cRank ▸ lt_aleph0_iff_finite.mpr fin
+  have ⟨B, hB⟩ := M.exists_base
+  simp_rw [← finite_coe_iff, ← lt_aleph0_iff_finite]
+  exact ⟨B, hB, (le_ciSup_of_le (bddAbove_range _) ⟨B, hB⟩ le_rfl).trans_lt h⟩
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/Rank/Cardinal.lean:365]:
```suggestion
  exact ⟨B, hB, hB.cardinalMk_le_cRank.trans_lt h⟩ 
```

**Review by apnelson1 — APPROVED** [review]
lgtm



Maybe these new lemmas are more naturally placed before the InvariantCardinalRank definition?

**Comment by alreadydone** [comment]
> Maybe these new lemmas are more naturally placed before the InvariantCardinalRank definition?

Many of them need the instance FiniteRk -> Finitary -> InvariantCardinalRank, so this can't be done.

**Review by apnelson1 — COMMENTED** [review]
These are fine - the reason they're not there yet is that `Flat` is basically just a definition, and the API is still in the repo. See https://github.com/apnelson1/Matroid/tree/main/Matroid/Flat for these lemmas and many more.

File: Mathlib/Data/Matroid/Closure.lean [hunk 6]
```diff
@@ -173,6 +175,12 @@ lemma subset_closure (M : Matroid α) (X : Set α) (hX : X ⊆ M.E := by aesop_m
 lemma Flat.closure (hF : M.Flat F) : M.closure F = F :=
   (sInter_subset_of_mem (by simpa)).antisymm (M.subset_closure F)
 
+variable (X) in
+lemma flat_closure : M.Flat (M.closure X) := by
```
Comment (apnelson1) [inline Mathlib/Data/Matroid/Closure.lean:179]: I think this could be `@[simp]`

**Review by jcommelin — COMMENTED** [review]
bors d=apnelson1

**Comment by apnelson1** [comment]
I think you will need to merge master because 'FiniteRk' has changed name.

File: Mathlib/Data/Matroid/Closure.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Data/Matroid/Closure.lean:179]:
```suggestion
@[simp] lemma flat_closure : M.Flat (M.closure X) := by
```
